US08580785B2
h) Preparation of 2-[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-9-methyl-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one
A solution of 6-Amino-5-methyl-2-trifluoromethyl-quinoline-7-carboxylic acid (0.60 g, 2.22 mmol), 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid (0.65 g 2.22 mmol) and pyridine (0.79 g, 9.992 mmol) in acetonitrile (30 ml) is cooled to 0-5° C. and treated drop wise with methane sulphonyl chloride (0.89 g, 7.77 mmol) dissolved in ca. 2 ml of acetonitrile. TLC analysis (4:1 hexane:ethyl acetate) after 2 hr shows reaction completion. The reaction mixture is concentrated to ca. 2/3 the original volume in vacuo and then poured onto 75 ml of ice/water. The resultant crystals are filtered at the pump, washed with water and dried in vacuo. This gives the title compound (1.0 g, 85.7%) as orange crystals.

reactant | 6-Amino-5-methyl-2-trifluoromethyl-quinoline-7-carboxylic acid | 2.22 mmol, 0.60 g | NC=1C(=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F)C | C12H9F3N2O2
reactant | 2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 2.22 mmol, 0.65 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(F)(F)F | C10H5ClF3N3O2
reactant | pyridine | 9.992 mmol, 0.79 g | N1=CC=CC=C1 | C5H5N
reactant | methane sulphonyl chloride | 7.77 mmol, 0.89 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | ca. 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-[2-(3-Chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-9-methyl-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one | 1.0 g, 85.7% | ClC=1C(=NC=CC1)N1N=C(C=C1C1=NC2=C(C3=CC=C(N=C3C=C2C(O1)=O)C(F)(F)F)C)C(F)(F)F | C22H10ClF6N5O2
